US06541638B2
A solution of 14.7 g (29.2 mmol) (2S,4R)-4-Tritylsulfanyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester was dissolved in 660 ml THF/EtOH (1:1) and treated at RT with 58.4 ml (58.4 mmol) aqueous 1 N NaOH. After 2 h the reaction was poured into aqueous 10% KHSO4/EtOAc (3×). The organic phases were washed with aqueous 10% NaCl solution and dried over Na2SO4 to give 14.8 g (quantitativ) of (2S,4R)-4-Tritylsulfanyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester. MS: 488 (M-H)−.

reactant | (2S,4R)-4-Tritylsulfanyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 29.2 mmol, 14.7 g | COC(=O)[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C30H33NO4S
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | KHSO4 EtOAc | OS(=O)(=O)[O-].[K+].CCOC(=O)C
solvent | THF EtOH | 660 ml | C1CCOC1.CCO
product | (2S,4R)-4-Tritylsulfanyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 14.8 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C29H31NO4S
